US07115645B2
[[(4-Chlorophenyl)sulfonyl][1,2-diphenyl-1H-benzimidazol-5-yl]amino]acetic acid methyl ester
100 mg of 4-chloro-N-(1,2-diphenyl-1H-benzimidazol-5-yl)benzenesulfonamide was suspended in 0.5 ml of N,N-dimethylformamide, mixed with 8 mg of sodium hydride and stirred for 30 minutes at 20° C. 50 mg of bromoacetic acid methyl ester was added, allowed to stir for 15 hours, mixed with water, extracted three times with ethyl acetate, the extracts were dried on sodium sulfate, concentrated by evaporation in a vacuum, and the residue was chromatographed on silica gel.

reactant | 4-chloro-N-(1,2-diphenyl-1H-benzimidazol-5-yl)benzenesulfonamide | 100 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C25H18ClN3O2S
reactant | sodium hydride | 8 mg | [H-].[Na+]
reactant | bromoacetic acid methyl ester | 50 mg | COC(CBr)=O | C3H5BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | [[(4-Chlorophenyl)sulfonyl][1,2-diphenyl-1H-benzimidazol-5-yl]amino]acetic acid methyl ester | COC(CN(C1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C=C1)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C28H22ClN3O4S
